US07517878B2
A mixture of 2-methoxy-6-methylphenyl trifluoromethanesulfonate (3.0 g, 0.011 mol), benzophenone hydrazone (2.38 g, 0.012 mol), BINAP (0.691 g, 0.001 mol), and cesium carbonate (5.06 g, 0.016 mol) in toluene (50 mL) was degassed with nitrogen. Palladium (II) acetate (0.075 g, 0.33 mol) was added, and the mixture was heated to 100° C. for 16 h. Reaction completion was judged by TLC (Eluent—5% EtOAc/Hexanes). The mixture was cooled to rt, concentrated under vacuum, and purified by silica gel chromatography using a gradient of hexanes—10% EtOAc/hexanes to afford 3.40 g (97%) of diphenylmethanone (2-methoxy-6-methylphenyl)hydrazone. 1H NMR (400 MHz, CD2Cl2) δ 7.65 (m, 2H), 7.55 (m, 3H), 7.40 (m, 2H), 7.30 (m, 3H), 6.85 (m, 2H), 6.68 (m, 1H), 3.70 (s, 3H), 2.67 (s, 3H); ES-MS m/z 317.1 (MH+); HPLC RT (min) 4.23.

reactant | 2-methoxy-6-methylphenyl trifluoromethanesulfonate | 0.011 mol, 3.0 g | FC(S(=O)(=O)OC1=C(C=CC=C1C)OC)(F)F | C9H9F3O4S
reactant | benzophenone hydrazone | 0.012 mol, 2.38 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | BINAP | 0.001 mol, 0.691 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.016 mol, 5.06 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | 0.33 mol, 0.075 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | diphenylmethanone (2-methoxy-6-methylphenyl)hydrazone | 3.40 g, 97% | COC1=C(C(=CC=C1)C)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20N2O
